US08633173B2
N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(1-methyl-piperidin-4-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine (75.0 mg, 0.232 mmol) and ]-4-(1-methyl-piperidin-4-yl)-phenylamine (53.0 mg, 0.279 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.063 g, 57%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.47 (s, 1H), 8.13 (d, J=6.8 Hz, 1H), 7.98 (dd, J=7.8, 1.2 Hz, 1H), 7.58-7.48 (m, 4H), 7.29-7.25 (m, 1H), 7.21 (d, J=8.4 Hz, 1H), 7.14-7.09 (m, 1H), 6.83-6.77 (m, 2H), 3.14 (s, 3H), 3.01-2.94 (m, 2H), 2.50-2.40 (m, 1H), 2.33 (s, 3H), 2.10-2.00 (m, 2H), 1.87-1.73 (m, 4H). MS=477 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine | 0.232 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C13H11ClN4O2S
reactant | 4-(1-methyl-piperidin-4-yl)-phenylamine | 0.279 mmol, 53.0 mg | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(1-methyl-piperidin-4-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)C | C25H28N6O2S
